US05013863
A solution of 1.46 g of 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-propionaldehyde, 0.54 g of ethyl methylphosphinate and 0.695 ml of triethylamine is heated to 100° for 2 hours. The reaction mixture is cooled to room temperature and chromatographed on silica gel to give ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxypropyl(methyl)phosphinate.

reactant | 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-propionaldehyde | 1.46 g | C(C)(C)(C)OC(=O)NCC(C=O)C1=CC=C(C=C1)Cl | C14H18ClNO3
reactant | ethyl methylphosphinate | 0.54 g | CP(OCC)=O | C3H9O2P
solvent | triethylamine | 0.695 ml | C(C)N(CC)CC | C6H15N
product | ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxypropyl(methyl)phosphinate | C(C)(C)(C)OC(=O)NCC(C(O)P(OCC)(=O)C)C1=CC=C(C=C1)Cl | C17H27ClNO5P
